US08309577B2
Step B: 3-Isothiocyanato-5,6,7,8-tetrahydroisoquinoline
To a stirring solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (222 mg, 0.956 mmol) in dchloromethane (5 mL) was added a solution of 5,6,7,8-tetrahydroisoquinolin-3-amine (139 mg, 0.938 mmol) in dichloromethane (1.5 mL) and the resulting solution was stirred at room temperature overnight. The reaction mixture was applied directly to a Biotage column in 20-25% ethyl acetate/hexane, collecting the first major peak. Yield 141.8 mg (79%) 3-iothiocyanato-5,6,7,8-tetrahydroisoquinoline. NMR 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.10 (1H, s), 6.84 (1H, s), 2.74 (4H, t, J=6.3 Hz), 1.81 (4H, dd, J=4.0, 2.7 Hz).

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 0.956 mmol, 222 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 5,6,7,8-tetrahydroisoquinolin-3-amine | 0.938 mmol, 139 mg | C1=NC(=CC=2CCCCC12)N | C9H12N2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-Isothiocyanato-5,6,7,8-tetrahydroisoquinoline | N(=C=S)C=1N=CC=2CCCCC2C1 | C10H10N2S
